US08633313B2
3-(2-Fluorophenyl)-3-oxopropanenitrile (1.5 g, 9.2 mmol) and 2-(1,3-dioxolan-2-yl)-3-pyridinamine (1.68 g, 10.12 mmol) were dissolved in toluene (100 mL). To the mixture was added catalytic amount of p-TSA (300 mg) and the reaction flask equipped with Dean-Stark assembly was heated for 4 h at 120° C. After completion of reaction, the reaction mixture was treated with water and ethyl acetate. The organic layer was separated and the aqueous layer was back extracted with ethyl acetate. The organic layers were combined and dried over anhydrous Na2SO4 and concentrated under reduced pressure to give a thick oily mass. The oily mass was then purified by silica gel column chromatography using 20% of ethyl acetate and hexane as eluent to give 2-(2-fluorophenyl)-1,5-naphthyridine-3-carbonitrile: 1H-NMR (CDCl3) δ: 7.2-7.0 (m, 3H), 7.8-7.4 (m, 3H), 8.4 (d, 1H), 9.1 (s, 1H).

reactant | 3-(2-Fluorophenyl)-3-oxopropanenitrile | 9.2 mmol, 1.5 g | FC1=C(C=CC=C1)C(CC#N)=O | C9H6FNO
reactant | 2-(1,3-dioxolan-2-yl)-3-pyridinamine | 10.12 mmol, 1.68 g | O1C(OCC1)C1=NC=CC=C1N | C8H10N2O2
reactant | p-TSA | 300 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-fluorophenyl)-1,5-naphthyridine-3-carbonitrile | FC1=C(C=CC=C1)C1=NC2=CC=CN=C2C=C1C#N | C15H8FN3
